US04943580
A mixture of 3.7 parts of [(2-bromoethyl)sulfonyl]benzene, 4.34 parts of 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine, 2.5 parts of sodium hydrogen carbonate and 120 parts of ethanol was stirred for 2 hours at reflux temperature. The reaction mixture was filtered over diatomaceous earth and the filtrate was evaporated. The residue was taken up in water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of tetrahydrofuran and 2,2'-oxybispropane. The product was filtered off and dried, yielding 2.6 parts (37.1%) of 3-(2-ethoxyethyl)-N-[1-[2-(phenylsulfonyl)ethyl]-4-piperidinyl]-3H-imidazo-[4,5-b]pyridin-2-amine hemihydrate; mp. 101.9° C. (compound 99).

reactant | [(2-bromoethyl)sulfonyl]benzene | BrCCS(=O)(=O)C1=CC=CC=C1 | C8H9BrO2S
reactant | 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCNCC2 | C15H23N5O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-ethoxyethyl)-N-[1-[2-(phenylsulfonyl)ethyl]-4-piperidinyl]-3H-imidazo-[4,5-b]pyridin-2-amine hemihydrate | 37.1% | O.C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCS(=O)(=O)C2=CC=CC=C2.C(C)OCCN2C(=NC=1C2=NC=CC1)NC1CCN(CC1)CCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/2C23H31N5O3S.H2O/c2*1-2-31-17-15-28-22-21(9-6-12-24-22)26-23(28)25-19-10-13-27(14-11-19)16-18-32(29,30)20-7-4-3-5-8-20;/h2*3-9,12,19H,2,10-11,13-18H2,1H3,(H,25,26);1H2
